Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / morphine
 
Attending: ___.
 
Chief Complaint:
s/p fall 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ PMH hypothyroid presents from OSH s/p fall from standing 
after ?syncopal episode with right ___ rib fractures. She 
reports she was crossing the street with her niece yesterday 
afternoon when she lost consciousness and fell to the ground, 
striking the right side of her head against the ground. Her 
niece
and a bystander helped her up and got her into the car. She has 
no memory of these events, and only remembers waking up in the 
car. She has never had any events similar to this before. She 
denies any headache, chest pain, palpitations, shortness of 
breath, fevers, chills, nausea, or vomiting.

 
Past Medical History:
PMH: 
-hypothyroid
-HTN
-HLD
-GERD

PSH: 
-breast biopsy 

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam: 
Vitals- 98.8    72     152/59     16    100% RA 
GEN: NAD
HEENT: EOMI, MMM, right lower lip with bruising and some 
swelling
CV: RRR
PULM: non-labored breathing, pain with deep inspiration, CTAB
ABD: soft, NT/ND
EXT: no edema
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

Discharge Physical Exam:
Vitals: 98.2 PO 176 / 74 L Lying 70 18 92 Ra 
General: Alert, oriented, no acute distress, sitting in chair
eating breakfast 
HEENT: NCAT 
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, S1/S2, no m/r/g, tender to palpation on right side  
Abdomen: soft, NT/ND, no rebound tenderness or guarding
Ext: warm, well perfused,  no clubbing, cyanosis or edema  
Neuro: A&Ox3, grossly normal
Skin: Mild bruising on R lower lip. No rash or lesion
 
Pertinent Results:
IMAGING:

CT torso (___):
Fractures of the right fifth through ninth ribs anterolaterally.
No pneumothorax.
Mild bibasilar pulmonary interstitial prominence and scar.
There is borderline distention the stomach which in view of a
contracted gallbladder likely reflects recent ingestion. 
Colonic diverticulosis without diverticulitis.

NCHCT (___):  
No traumatic injuries
CT cspine (___): 
Bilateral rotator cuff tears that shoulders. Multilevel
degenerative spondylosis. No acute fracture or subluxation.
___: ECHO:
1) Normal biventricular regional/global systolic function.
 2) Mild to moderate mitral and mild aortic regurgitation.
 3) No specific evidence of a structural cardiac abnormality 
identified on available images to explain patient's syncope.  

ADMISSION LABS:
___ 02:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 02:15AM URINE  RBC-1 WBC-7* BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 02:15AM URINE  HYALINE-1*

DISCHARGE LABS:
___ 05:46AM BLOOD WBC-8.4 RBC-3.39* Hgb-10.0* Hct-30.5* 
MCV-90 MCH-29.5 MCHC-32.8 RDW-12.0 RDWSD-39.6 Plt ___
___ 05:46AM BLOOD Glucose-97 UreaN-16 Creat-0.8 Na-142 
K-4.2 Cl-105 HCO3-25 AnGap-12
___ 05:46AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.8
___ 05:30AM BLOOD TSH-1.2
 
Brief Hospital Course:
MEDICAL HOSPITAL COURSE:

___ w/ PMH hypothyroidism presents from OSH s/p fall from 
standing after syncopal episode with right ___ rib 
fractures. 

#Syncope: 
Preceding her fall. She could not recall events surrounding her 
syncope. She had no prodrome, no seizure. Her orthostatics were 
negative. She had neg trops. TTE showed mild mitral, tricuspid, 
and aortic regurgitation though unlikely to cause syncope, and 
no heart failure. She was noted to have SVT. Cardiology was 
consulted and was not certain that the SVT would have caused her 
syncope (though possible). Cardiology recommended home Zio patch 
(ordered) and no beta blockade at this time. Worked with 
physical therapy.

#Rib fracture: 
Resulting from fall. Treated with lidocaine patch, Tylenol.

#Arrhythmia: 
Noted to have rates in 130's captured on telemetry. Initial 
concern for afib given history of pAfib but unclear. Cardiology 
was consulted, recommendations as above. She was monitored on 
telemetry.

TRANSITIONAL ISSUES:
===================
 - Patient may benefit from barium swallow with reported food 
getting "stuck" when swallowing 
 - Has straining with defecation at home; recommend continuing 
bowel reg 
 - Outpatient ___ and OT
 - Patient has Zio patch ordered that should be mailed to her 
home. Please ensure that she has received this and that results 
are sent to her PCP
 ___ 
 ___ 
 Tel: ___ 
 Fax: ___ 

#CODE: Full confirmed does not want to continue if futile 
#COMMUNICATION: ___ (___/HCP) ___, 
___ ___ 

+
+
+
+
+
++++++++++++++++++++++++++++++++++++++++++++++++++++++++++++++++

SURGICAL HOSPITAL COURSE:

Ms. ___ is a ___ y/o F w/ ___ hypothyroidism who presented to 
___ from OSH s/p fall from standing after a syncopal episode.  
Imaging revealed her to have right-sided ___ rib fractures. 
She was admitted to the Trauma Surgery service at ___ for pain 
control, respiratory and cardiac monitoring and syncopal workup 
and was placed on telemetry. 

On HD1, the patient had an ECHO which was normal.  She remained 
stable from a cardiopulmonary standpoint.  She had a run of 
atrial fibrillation with RVR, heart rate to the 110s-130s, but 
she was asymptomatic.  Medicine was consulted for syncopal 
evaluation and recommended metoprolol 12.5mg BID. Pulmonary 
toilet, early ambulation and incentive spirometry was 
encouraged.  She received subcutaneous heparin for DVT 
prophylaxis. Pain was managed with oral acetaminophen and 
tramadol prn.  Physical and Occupational Therapy consults were 
placed.  

On HD2, the patient was transferred to the medical service for 
ongoing syncopal workup. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Omeprazole Dose is Unknown  PO DAILY 
3. Simvastatin Dose is Unknown  PO QPM 
4. Ferrous Sulfate Dose is Unknown  PO DAILY 
5. Vitamin D 5000 UNIT PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. olmesartan Dose is Unknown  oral DAILY 
8. risedronate Dose is Unknown  oral Other 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 capsule(s) by mouth q8hr Disp #*60 
Capsule Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM To L leg 
RX *lidocaine [Lidoderm] 5 % Apply to leg and ribs daily Disp 
#*30 Patch Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [Senna-Gen] 8.6 mg 1 by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Ferrous Sulfate As directed mg PO DAILY  
6.  olmesartan As Directed mg oral DAILY  
7.  Omeprazole As directed mg PO DAILY  
8.  risedronate As Directed mg oral ASDIR  
9.  Simvastatin As directed mg PO QPM  
10.  Aspirin 81 mg PO DAILY  
11.  Levothyroxine Sodium 100 mcg PO DAILY  
12.  Vitamin D 5000 UNIT PO DAILY  
13.Outpatient Physical Therapy
icd10 S22 rib fracture

Pt is a ___ F who presents to
physical therapy during hospitalization for the management of
syncopal fall. Pt continues to demonstrate steady gait with ___
but does not own correct size ___ and will need to be issued one.
Despite S level here, anticipate indep within own home if niece
is able to verify that ___ will fit through doorways which the
patient is concerned about. Pt states she will have S-CGA for
stairs to enter her home. Recommend home ___ services at time of
d/c. If ___ is able to be issued and will fit through doorways, 
pt
will be safe for home. However, if unable to occur today,
recommend ___ more visits to ensure safety at home. Will 
continue
to follow to progress as able. 

Recommended Discharge: ( )rehab (X)home with ___ services with
pedi ___ and after niece ensures ___ will fit through doorways

PLAN: 
Progress functional mobility including bed mobility, transfers,
gait and stairs as tolerated.
Balance training
Therex
Pt/caregiver education RE: fall risk
D/C planning

Recommendations for Nursing:
Pt is at high risk for deconditioning please encourage frequent
mobility and maximize independence in ADLs.
Amb with ___ and S 3x/day.
Assist of 1 for out of bed to chair with ___ 3x/day.
Please use chair alarm when out of bed.
Normalize sleep-wake cycle to decrease risk of delirium.

14.Outpatient Occupational Therapy
ICD 10  S22 & R55

___ year old female s/p syncopal event now presenting as 
mentioned above. When medically stable
the patient will be safe for home d/c with home OT ___ ___ bath/
dress limitations. Recommending continued homemaker services and
meals on wheels. 

Current/ Goal/ Discharge Status:
___ Self Care 
AM-PAC raw score: 22
Based on the results of the AM-PAC, the patient presents with 
CMS severity: 1%<20%  impaired (CI)

Goals:               Time Frame: Time of eval
- Min assist ___ ADL
- ___ tests of attention in 1 minute
- Supervised sit to stand

Anticipated Discharge: home with home OT

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope
Rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I IN THE HOSPITAL?
You were admitted to ___ after 
a fall after losing consciousness. 

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL:
You were found to have right-sided rib fractures.  Your 
breathing was monitored and has remained stable.  You had an 
ultrasound of your heart (ECHO) which was normal.  You were 
noted to have an intermittent heart arrhythmia that could 
possibly have caused this fall. 

Your rib fractures will heal on their own, and you received pain 
medication to help improve your breathing effort.  Your care was 
transferred to the medical service to evaluate the cause of your 
loss of consciousness. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL:
Take all your medications as prescribed. 
Participate in physical therapy and occupational therapy.
You will have a heart monitor (Zio patch) sent to your house to 
evaluate for any more arrhythmias. Please call ___ Cardiology 
___ if you do not receive your heart monitor by 
___. Also, please call your PCP on ___ and make a 
post-discharge follow-up appointment within ___ weeks. 

Wishing you the best!
Your ___ Care Team

Rib Fractures:

* Your injury caused right-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___